US07749992B2
5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester
A mixture of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-bromo-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester (0.118 g, 0.187 mmol), methyl boronic acid (0.0340 g, 0.561 mmol) and cesium fluoride (0.0990 mg, 0.655 mmol) in dioxane (2.00 ml) was purged with nitrogen for 10 minutes. To it was added PdCl2(dppf) (0.0240 g) in one portion. The mixture was heated at 100° C. overnight. The solid was removed by filtration, washed with ethyl acetate (30.0 ml) and the filtrate was concentrated in vacuo. Purification by silica gel chromatography (gradient eluent, 0-35% ethyl acetate in hexane) provided the titled compound (0.0820 g, 77%) as white foamy solid. MS (ES+): 565 (M+H).

reactant | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-bromo-8-chloro-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 0.187 mmol, 0.118 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)Cl)Br | C25H24BrClF6N2O3
reactant | methyl boronic acid | 0.561 mmol, 0.0340 g | CB(O)O | CH5BO2
reactant | cesium fluoride | 0.655 mmol, 0.0990 mg | [F-].[Cs+]
solvent | dioxane | 2.00 ml | O1CCOCC1 | C4H8O2
product | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-chloro-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 0.0820 g, 77% | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)Cl)C | C26H27ClF6N2O3
